US04377708
A 300 ml autoclave is charged with 0.110 g of [(C3H5)PdCl]2 (0.6 mmole Pd), 3.15 g. of Ph3P (12 mmole), 83 ml of acetic acid as solvent, and 37 ml of vinyl acetate (0.4 mole). The autoclave was flushed with nitrogen, pressured to 30 psig with carbon monoxide, and heated to 150° C. After reaching 150° C. one milliliter of water was pumped into the reaction solution from a Jurgenson Gauge and the pressure was raised to 700 psig with carbon monoxide. The reaction began absorbing gas as evidenced by a drop in the autoclave pressure. Therefore the autoclave pressure was maintained at 700 psig by feeding carbon monxide from a high-pressure reservoir. In addition, the water concentration in the reaction solution was maintained by addition of one milliliter of water from the Jurgenson Gauge for every 130 psig pressure drop in the high-pressure reservoir. After the addition of a total of five milliliters of water the reaction had consumed 675 psig of carbon monoxide from the high pressure reservoir. At this time the reaction was terminated. The production of α-acetoxypropionic acid was shown by a nuclear magnetic resonance and gas chromatography of the concentrated reaction solution. Pure α-acetoxypropionic acid was isolated from a subsequent fractional distillation. The mass spectrum of other fractions showed ethylidene diacetate (major), propionic acid (minor), and acrylic acid (minor) to be by-products.

reactant | Ph3P | 12 mmole | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | vinyl acetate | 0.4 mole, 37 ml | C(C)(=O)OC=C | C4H6O2
reactant | acetic acid | 83 ml | C(C)(=O)O | C2H4O2
product | α-acetoxypropionic acid | C(C)(=O)OC(C(=O)O)C | C5H8O4
